US07528160B2
6-Benzyloxy-3,4-dihydro-1H-quinolin-2-one
A solution of 6-hydroxy-3,4-dihydro-1H-quinolin-2-one (2.93 g, 17.9 mmol) in DMF (20 mL) is treated with K2CO3 (4.97 g) and BnBr (4.61 g, 26.9 mmol). The suspension is stirred at room temperature for 4 hours and quenched with water (100 mL). The mixture is extracted with EtOAc (50 mL×2) and the combined organics are dried (Na2SO4), concentrated, and purified on silica gel chromatography column with 30-60% EtOAc/Hexanes to yield the title compound (4.40 g, 97%).

reactant | 6-hydroxy-3,4-dihydro-1H-quinolin-2-one | 17.9 mmol, 2.93 g | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | K2CO3 | 4.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 26.9 mmol, 4.61 g | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-Benzyloxy-3,4-dihydro-1H-quinolin-2-one | 4.40 g, 97% | C(C1=CC=CC=C1)OC=1C=C2CCC(NC2=CC1)=O | C16H15NO2
